*

.subckt BatMgtSysSubckt


.include "C:/Users/DELL/Documents/Jonny's project/New_schematic_phms/irlml6402.spi"
.include "C:/Users/DELL/Downloads/MCP6561_MM_B/MCP6561.txt"
.include "C:/Users/DELL/Downloads/sclm275/SN74AHC1G02.cir"
.include "C:/Users/DELL/Downloads/slvmcy1/TLV76701_TRANS.lib"
.include "C:/Users/DELL/Downloads/ss14.txt"
R5 /V_REF- +VCC 10k
D1 Net-_D1-A_ +BAT SS14
C3 GND Net-_D1-A_ 10u
R10 Net-_D1-A_ /VOUT 0.885
R3 /V_REF+ GND 10k
R1 Net-_R1-Pad2_ +BAT 6.04k
R2 /V_REF+ Net-_R1-Pad2_ 60
VBT1 +BAT GND DC 3.5 
VCC1 +VCC GND DC 5 
R13 Net-_U3-+_ GND 10k
R6 /V_REF- GND 10k
XU8 /V_IN /US_OUT /TH_OUT +VCC GND SN74AHC1G02
XU1 /V_REF+ /V_REF- +VCC GND /US_OUT MCP6561
R4 /US_OUT /V_REF+ 490k
R11 Net-_U3--_ GND 10k
R7 Net-_U3--_ +VCC 3.8k
XU3 Net-_U3-+_ Net-_U3--_ +VCC GND /TH_OUT MCP6561
R12 Net-_U3-+_ +VCC 10k
R9 GND Net-_U2-FB_ 10k
C1 GND +VCC 100u
R8 Net-_U2-FB_ /VOUT 40.8k
C2 GND /VOUT 10u
XU2 /V_IN Net-_U2-FB_ GND +VCC /VOUT TLV76701_TRANS
XQ5 /V_d2 Net-_BT3-+_ Net-_Q5-S_ irlml6402
VBT3 Net-_BT3-+_ GND DC 2.0 
R17 /V_d2 GND 10k
R18 /V_d1 GND 10k
R21 Net-_Q5-S_ /V_d1 100
XQ6 /V_d1 +VCC +BAT irlml6402

.ends
