*$
* BSS215P - ngspice compatible model
* Simplified from Infineon PSpice Level-1/3 library
* P-channel MOSFET, -30V, 150mOhm, SOT-23
*
* Pins: drain gate source
*
* Simplifications vs original:
*   1. Level-3 P3_20var core replaced with standard PMOS LEVEL=3
*   2. TC= removed from all resistors
*   3. Thermal network removed (Tj pinned to TEMP)
*   4. Package parasitics kept (Lg, Ld, Ls, Rs, Rg)
*   5. Body diode kept
*   6. Nonlinear Cgd (DGD model) kept
*   7. VALUE={} expressions use ternary, single-line
*
*****************************************************************************

.SUBCKT BSS215P_L1 drain gate source PARAMS: dVth=0 dRdson=0 dgfs=0 dC=0

* Package parasitics
Lg    gate   g1   1n
Ld    drain  d1   0.5n
Ls    source s1   1n
Rs    s1     s2   15.379m
Rg    g1     g2   17.5

* Core MOSFET (PMOS LEVEL=3, parameters from L0 model)
M1    d2  g2  s2  s2  DMOS_BSS215P  L=1u  W=1u
.MODEL DMOS_BSS215P PMOS (KP=5.216 VTO=-0.9 THETA=0.02 ETA=0.01 LEVEL=3)

* Drain resistance (temperature coefficient removed for ngspice)
Rd    d1  d2  50m

* Body diode
Dbd   d2  s2  Dbt_BSS215P
.MODEL Dbt_BSS215P D (BV=33 M=0.5 CJO=76.96p VJ=1)

Dbody  d3  s2  DBODY_BSS215P
.MODEL DBODY_BSS215P D (IS=15.35p N=1.15 RS=132.43m EG=1.12 TT=30n)
Rdiode d1  d3  50m

* Nonlinear gate-drain capacitance (Cgd)
* Uses auxiliary PMOS switches to model voltage-dependent Cgd
* Kept from original - this is critical for switching behaviour
.MODEL sw_BSS215P PMOS (VTO=0 KP=10 LEVEL=1)
Maux   g2  c   a   a   sw_BSS215P
Maux2  b   d   g2  g2  sw_BSS215P
Eaux   c   a   d2  g2  1
Eaux2  d   g2  d2  g2  -1
Cox    b   d2  350.34p
.MODEL DGD_BSS215P D (M=0.65 CJO=350.34p VJ=0.5)
Rpar   b   d2  1Meg
Dgd    d2  a   DGD_BSS215P
Rpar2  d2  a   10Meg

* Gate-source capacitance
Cgs   g2  s2  174.64p

.ENDS BSS215P_L1
